US06596719B1
According to the procedure described in Example 4a) 107 mg 5-methyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide was reacted with methanesulfonylchloride to give 100 mg 5-methyl-N-[6-(2-(methanesulfonylamino)-ethoxy)-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide. LC-MS: tR=3.72 min, [M+1]+=587.46, [M−1]−=585.50.

reactant | 5-methyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide | 107 mg | CC=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCN)C1=CC=NC=C1 | C24H24N6O5S
reactant | methanesulfonylchloride | CS(=O)(=O)Cl | CH3ClO2S
product | 5-methyl-N-[6-(2-(methanesulfonylamino)-ethoxy)-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide | 100 mg | CC=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCNS(=O)(=O)C)C1=CC=NC=C1 | C25H26N6O7S2
